US04006245
To 5.0 parts of 7-[3-(4-acetyl-3-hydroxy-2-propyl phenoxy) propoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid dissolved in 200 parts of hot ethanol was added a solution of 0.870 parts of sodium bicarbonate in 30 parts of water. The solution was evaporated under reduced pressure to dryness, dry benzene was added and the mixture was again evaporated to dryness. The resulting buff solid was ground to a powder and dried to afford 5.0 parts of sodium 7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate.

reactant | 7-[3-(4-acetyl-3-hydroxy-2-propyl phenoxy) propoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C3=C(C(C=C(O3)C(=O)O)=O)C=C2)CCC)C=C1)CCC)O | C27H30O8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | sodium 7-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C3=C(C(C=C(O3)C(=O)[O-])=O)C=C2)CCC)C=C1)CCC)O.[Na+] | InChI=1S/C27H30O8.Na/c1-4-7-19-22(11-9-17(16(3)28)25(19)30)33-13-6-14-34-23-12-10-18-21(29)15-24(27(31)32)35-26(18)20(23)8-5-2;/h9-12,15,30H,4-8,13-14H2,1-3H3,(H,31,32);/q;+1/p-1
